US05378712
237 mg of cis-N-benzyloxycarbonylpyrrolidine-3,4-diol, 1 ml of t-butyl bromoacetate and 100 mg of tetrabutyl-ammonium hydrogen sulphate in 10 ml of toluene are stirred with 10 ml of 50% sodium hydroxide solution under phase transfer conditions. The organic phase is washed with water and evaporated. Chromatography of the evaporation residue on silica gel with ethyl acetate/hexane (1:3) gives 354 mg of benzyl cis-3,4-bis-t-butoxycarbonylmethoxy-pyrrolidine-1-carboxylate. MS: 354 (M-111).

reactant | cis-N-benzyloxycarbonylpyrrolidine-3,4-diol | 237 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@H](C1)O)O | C12H15NO4
reactant | t-butyl bromoacetate | 1 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
catalyst | tetrabutyl-ammonium hydrogen sulphate | 100 mg | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | benzyl cis-3,4-bis-t-butoxycarbonylmethoxy-pyrrolidine-1-carboxylate | 354 mg | C(C)(C)(C)OC(=O)CO[C@@H]1CN(C[C@@H]1OCC(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C24H35NO8
